US09238644B2
(a) 2-(2-((2-Chloro-5-methylpyrimidin-4-yl)ethynyl)phenyl)propanamide (A48)
A suspension of 2-(2-ethynylphenyl)propanamide K7 (2.00 g, 11.5 mmol), 2,4,-dichloro-5-methylpyrimidine (2.45 g, 15.0 mmol), CuI (0.044 g, 0.33 mmol), PdCl2(PPh3)2 (0.162 g, 0.231 mmol) and tri-t-butylphosphonium tetrafluoroborate (0.067 g, 0.23 mmol) in DMF (15 mL) was bubbled with N2 for 10 minutes. Et3N (10 mL) was added and the reaction mixture was stirred under N2 at 60° C. for 2.5 hours. The mixture was cooled, diluted with Et2O and the precipitate was isolated by filtration and washed with Et2O then water to give the title compound A48 as a white solid (2.08 g, 60%). LCMS-A: rt 5.86 min; m/z 300 [M+H]+.

reactant | 2-(2-ethynylphenyl)propanamide | C(#C)C1=C(C=CC=C1)C(C(=O)N)C | C11H11NO
reactant | 2,4,-dichloro-5-methylpyrimidine | 15.0 mmol, 2.45 g | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
reactant | tri-t-butylphosphonium tetrafluoroborate | 0.23 mmol, 0.067 g | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.33 mmol, 0.044 g | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.231 mmol, 0.162 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(2-((2-Chloro-5-methylpyrimidin-4-yl)ethynyl)phenyl)propanamide | ClC1=NC=C(C(=N1)C#CC1=C(C=CC=C1)C(C(=O)N)C)C | C16H14ClN3O
